US06020357
Part A: Ethyl 1-(3-cyano-4-methylphenyl)-3-methyl-5-pyrazole-carboxylate was prepared as colorless crystals following the standard condensation (3-cyano-4-methylphenyl-hydrazine and ethyl 2-(N-(methoxy)imino)-4-oxopentanoate in acetic acid) reaction protocol discussed previously. 1HNMR (CDCl3) δ: 7.68 (s, 1H), 7.57 (dd, 1H), 7.58 (d, 1H), 6.82 (s, 1H), 4.24 (q, 2H), 2.40 (s, 3H0, 2.37 (s, 3H), 1.27 (t, 3H) ppm; ESI mass spectrum analysis (270 (M+H, 100).

reactant | 3-cyano-4-methylphenyl-hydrazine | C(#N)C=1C=C(C=CC1C)NN | C8H9N3
reactant | ethyl 2-(N-(methoxy)imino)-4-oxopentanoate | CON=C(C(=O)OCC)CC(C)=O | C8H13NO4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Ethyl 1-(3-cyano-4-methylphenyl)-3-methyl-5-pyrazole-carboxylate | C(#N)C=1C=C(C=CC1C)N1N=C(C=C1C(=O)OCC)C | C15H15N3O2
